US08236801B2
A.6.2 Synthesis of 2-Methyl-benzooxazole-4-carboxylic acid
At 0° C. an aq. KOH solution (1.0M, 2.40 mL) is added to a solution of 2-methyl-benzooxazole-4-carboxylic acid ethyl ester (0.98 mmol) in MeOH (5.0 mL) and stirred for 30 min. The mixture is allowed to reach rt, stirred for additional 60 min and made acidic by addition of aq. hydrochloric acid (2.0 M). After removal of MeOH under reduced pressure the obtained precipitate is filtered off to give the desired product which is dried in vacuo. 1H-NMR (DMSO-d6): δ=2.64 (s, 3H); 7.41 (t, J=8.0 Hz, 1H); 7.83 (d, J=7.8 Hz, 1H); 7.88 (d, J=8.0 Hz, 1H); 12.8 (bs, 1H).

reactant | KOH | 1.0M, 2.40 mL | [OH-].[K+]
reactant | 2-methyl-benzooxazole-4-carboxylic acid ethyl ester | 0.98 mmol | C(C)OC(=O)C=1C=CC=C2C1N=C(O2)C | C11H11NO3
reactant | hydrochloric acid | 2.0 M | Cl | ClH
solvent | MeOH | 5.0 mL | CO | CH4O
product | 2-Methyl-benzooxazole-4-carboxylic acid | CC=1OC=2C(N1)=C(C=CC2)C(=O)O | C9H7NO3
